US07605172B2
A solution of 2-(2,6-dichlorobenzyl)-4-(6-methoxy-2-naphthyl)-1,3-thiazole (390 mg, 0.975 mmol), prepared in the previous step, in 50 mL of glacial HOAc plus 25 mL of 48% HBr was stirred under nitrogen at 120° C. for 3.5 h and then stood overnight at room temperature. The reaction was concentrated under reduced pressure. The residue was dissolved in 20% methanol-methylene chloride and neutralized with the addition of an excess of 5% NaHCO3. The aqueous layer was separated and extracted three times with 20% methanol-methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give 6-[2-(2,6-dichlorobenzyl)-1,3-thiazol-4-yl]-2-naphthol (303 mg, 80%) as a brown solid, mp 191-193° C. Elemental Analysis for C20H13Cl2NOS Calc'd: C, 62.19; H, 3.39; N, 3.63. Found: C, 61.31; H, 3.30; N, 3.42.

reactant | 2-(2,6-dichlorobenzyl)-4-(6-methoxy-2-naphthyl)-1,3-thiazole | 0.975 mmol, 390 mg | ClC1=C(CC=2SC=C(N2)C2=CC3=CC=C(C=C3C=C2)OC)C(=CC=C1)Cl | C21H15Cl2NOS
reactant | HBr | 25 mL | Br | BrH
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
product | 6-[2-(2,6-dichlorobenzyl)-1,3-thiazol-4-yl]-2-naphthol | 303 mg, 80% | ClC1=C(CC=2SC=C(N2)C=2C=C3C=CC(=CC3=CC2)O)C(=CC=C1)Cl | C20H13Cl2NOS
